US08304419B2
A mixture of {[4-chloro-2-fluoro-3-(phenyloxy)phenyl]methyl}amine (0.021 g, 0.083 mmol), 4-chloro-2-methyl-1H-imidazole-5-carboxylic acid (0.013 g, 0.083 mmol), HATU (0.038 g, 0.100 mmol) and DIPEA (0.017 mL, 0.100 mmol) in DMF (1 mL) was stirred at room temperature overnight. The crude reaction mixture was purified by reverse phase HPLC (acetonitrile:water with 0.1% TFA). The fractions containing product were lyophilized to give 4-chloro-N-{[4-chloro-2-fluoro-3-(phenyloxy)phenyl]methyl}-2-methyl-1H-imidazole-5-carboxamide (0.0077 g, 18%) (trifluoroacetate salt) as a white solid. 1H NMR (400 MHz, DMSO-d6) d ppm 8.05-8.18 (m, 1H), 7.41-7.48 (m, 1H), 7.34 (t, 2H), 7.27 (t, 1H), 7.08 (t, 1H), 6.87 (d, 2 H), 4.49 (d, 2H), 2.24 (s, 3H). ES MS: m/z 394 (M+1).

reactant | {[4-chloro-2-fluoro-3-(phenyloxy)phenyl]methyl}amine | 0.083 mmol, 0.021 g | ClC1=C(C(=C(C=C1)CN)F)OC1=CC=CC=C1 | C13H11ClFNO
reactant | 4-chloro-2-methyl-1H-imidazole-5-carboxylic acid | 0.083 mmol, 0.013 g | ClC=1N=C(NC1C(=O)O)C | C5H5ClN2O2
reactant | HATU | 0.100 mmol, 0.038 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.100 mmol, 0.017 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 4-chloro-N-{[4-chloro-2-fluoro-3-(phenyloxy)phenyl]methyl}-2-methyl-1H-imidazole-5-carboxamide | 0.0077 g, 18% | ClC=1N=C(NC1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC=CC=C1)F)C | C18H14Cl2FN3O2
